US05364871
A suspension of 2-(diaminomethyleneamino)-4-(5-methoxycarbonylpyridin-3-yl)thiazole (2.0 g), cyclopentylamine (3.7 g) and 28% sodium methoxide methanolic solution (5 ml) in methanol (50 ml) was refluxed for 2 hours. The solvent was removed under reduced pressure. The residue was dissolved in water (50 ml). The mixture was extracted with a mixture of ethyl acetate (150 ml) and tetrahydrofuran (50 ml). The extract was dried over magnesium sulfate and then was evaporated. Recrystallization from a mixture of methanol and diisopropyl ether afforded 4-(5-cyclopentylaminocarbonylpyridin-3-yl)-2-(diaminomethyleneamino)thiazole (0.2 g).

reactant | 2-(diaminomethyleneamino)-4-(5-methoxycarbonylpyridin-3-yl)thiazole | 2.0 g | NC(N)=NC=1SC=C(N1)C=1C=NC=C(C1)C(=O)OC | C11H11N5O2S
reactant | cyclopentylamine | 3.7 g | C1(CCCC1)N | C5H11N
reactant | sodium methoxide | 5 ml | C[O-].[Na+]
solvent | methanol | 50 ml | CO | CH4O
product | 4-(5-cyclopentylaminocarbonylpyridin-3-yl)-2-(diaminomethyleneamino)thiazole | 0.2 g | C1(CCCC1)NC(=O)C=1C=C(C=NC1)C=1N=C(SC1)N=C(N)N | C15H18N6OS
